US06037367
Preparation of (+/-)-N-[2-(3-Cyclopentyloxy-4-methoxyphenyl)-4-phenylbut-3-ynyl]-trifluoroacetamide
A solution of (+/-)-4-amino-3-(3-cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne hydrochloride (50 mg, 0.14 mmol) and Et3N (40 mg) in a mixture of MeOH (1 ml) and ethyl trifluoroacetate (0.5 ml) was refluxed overnight. The solvents were evaporated, the residue taken up in Et2O, washed with H2O, 0.01N HCl, dried, and the solvent evaporated. The residue was crystallized from a mixture of cyclohexane and Et2O, and gave the titled compound, 32 mg (55%). mp 143-145°. 1H NMR (400 MHz, CDCl3) δ 7.42 (m, 2 H), 7.32 (m, 3 H), 6.94 (m, 2 H), 6.84 (d, 1 H), 6.54 (broad s, 1 H), 4.78 (m, 1 H), 4.08 (t, 1 H), 3.82 (s, 3 H), 3.78 (m, 1 H), 3.58 (m, 1 H), 1.76-1.92 (m, 6 H), 1.60 (m, 2 H).

reactant | (+/-)-4-amino-3-(3-cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne hydrochloride | 0.14 mmol, 50 mg | Cl.NCC(C#CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1
reactant | Et3N | 40 mg | CCN(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 0.5 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | MeOH | 1 ml | CO | CH4O
product | (+/-)-N-[2-(3-Cyclopentyloxy-4-methoxyphenyl)-4-phenylbut-3-ynyl]-trifluoroacetamide | C1(CCCC1)OC=1C=C(C=CC1OC)C(CNC(C(F)(F)F)=O)C#CC1=CC=CC=C1 | C24H24F3NO3
